US03997557
2.9 g (0.028 mole) of isopropylaminoethylamine are added dropwise to a stirred solution of 8.0 g (0.028 mole) of 2-(3,4-dichlorophenacyl)cyclohexanone in glacial acetic acid under nitrogen. After refluxing for 5 hours, ice and water are added and the pH of the aqueous solution is adjusted to 1 with dilute hydrochloric acid. The aqueous solution is washed with ether. The aqueous phase is made basic with sodium carbonate and extracted with ether. The ether solution is dried over sodium sulfate and concentrated to off-white solid, which is recrystallized twice from a methanol-ether mixture to give 1-(2-isopropylaminoethyl)-2-(3,4-dichlorophenyl)-4,5,6,7-tetrahydroindole hydrochloride as crystals, m.p. 207°-210° C.

reactant | isopropylaminoethylamine | 0.028 mole, 2.9 g | C(C)(C)NCCN | C5H14N2
reactant | 2-(3,4-dichlorophenacyl)cyclohexanone | 0.028 mole, 8.0 g | ClC=1C=C(C(CC2C(CCCC2)=O)=O)C=CC1Cl | C14H14Cl2O2
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(2-isopropylaminoethyl)-2-(3,4-dichlorophenyl)-4,5,6,7-tetrahydroindole hydrochloride | Cl.C(C)(C)NCCN1C(=CC=2CCCCC12)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C19H24Cl2N2.ClH/c1-13(2)22-9-10-23-18-6-4-3-5-14(18)12-19(23)15-7-8-16(20)17(21)11-15;/h7-8,11-13,22H,3-6,9-10H2,1-2H3;1H
